US09024009B2
A suspension of 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-4-chloro-3-(5-bromo-2-thienylmethyl)benzene (13.5 g; prepared as described in PCT Publication WO 2005/012326), 2-fluoropyridine-5-boronic acid (Frontier Scientific, 4.63 g), cesium fluoride (19.96 g) and tetrakis(triphenylphosphin)palladium(0) (2.53 g) in 1,2-dimethoxyethane (200 ml) was refluxed for 1.5 hours. The reaction mixture was poured into a saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was dissolved in ethyl acetate, and the mixture was treated with activated carbon and filtered through aminosilane-treated silica gel (27 ml) pad. The filtrate was evaporated under reduced pressure, and the residue was purified by silica gel flash column chromatography (hexane:ethyl acetate:dichloromethane 2:1:1) and recrystallized from methanol to yield 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-4-chloro-3-(5-(6-fluoro-3-pyridyl)-2-thienylmethyl)benzene (8.33 g) as a colorless crystal.

reactant | 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-4-chloro-3-(5-bromo-2-thienylmethyl)benzene | 13.5 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=C(C=C1)Cl)CC=1SC(=CC1)Br | C25H26BrClO9S
reactant | 2-fluoropyridine-5-boronic acid | 4.63 g | FC1=NC=C(C=C1)B(O)O | C5H5BFNO2
reactant | cesium fluoride | 19.96 g | [F-].[Cs+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 200 ml | COCCOC | C4H10O2
product | 1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)-4-chloro-3-(5-(6-fluoro-3-pyridyl)-2-thienylmethyl)benzene | 8.33 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=C(C=C1)Cl)CC=1SC(=CC1)C=1C=NC(=CC1)F | C30H29ClFNO9S
